US04542233
A mixture of 4-nitro-aniline (3.77 g; 0.0273 mole), trichloroacetic acid (6 g; 0.0367 mole), cuprous chloride (0.14 g; 0.0014 mole) and trimethylorthoformate (5.8 g; 0.0548 mole) in benzene (140.6 g; 1.8 mole) was heated to 60° C. Aliquots of sodium nitrite (2.3 g; 0.0333 mole) were added to the thus obtained mixture. The mixture was maintained under stirring for 22 hours at 60° C. and then hydrolyzed with water and diluted hydrochloric acid. The organic layer was separated, washed with water and concentrated. Crystallization of the residue from methanol afforded 5.8 g of 4-nitro-biphenyl, melting at 114°-116° C. Yield, 80%.

reactant | 4-nitro-aniline | 0.0273 mole, 3.77 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | trichloroacetic acid | 0.0367 mole, 6 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | trimethylorthoformate | 0.0548 mole, 5.8 g | COC(OC)OC | C4H10O3
reactant | benzene | 1.8 mole, 140.6 g | C1=CC=CC=C1 | C6H6
reactant | sodium nitrite | 0.0333 mole, 2.3 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-nitro-biphenyl | 5.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=CC=C1 | C12H9NO2
